US05364871
Methyl isocyanate (0.24 ml) was added to a mixture of 4-(6-aminomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole trihydrochloride (1.2 g) and triethylamine (1.4 ml) in a solution of tetrahydrofuran (18 ml) and methanol (6 ml) and the mixture was stirred at ambient temperature for 1 hour. To the mixture was added a mixture of ethyl acetate and water, and the mixture was adjusted to pH 9.5 with 20% aqueous potassium carbonate. The separated organic layer was dried over magnesium sulfate and evaporated to give 2-(diaminomethyleneamino)-4-[6-(3-methylureido)methylpyridin-2-yl]thiazole (0.92 g).

reactant | Methyl isocyanate | 0.24 ml | CN=C=O | C2H3NO
reactant | 4-(6-aminomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole trihydrochloride | 1.2 g | Cl.Cl.Cl.NCC1=CC=CC(=N1)C=1N=C(SC1)N=C(N)N
reactant | triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 6 ml | CO | CH4O
solvent | tetrahydrofuran | 18 ml | O1CCCC1 | C4H8O
product | 2-(diaminomethyleneamino)-4-[6-(3-methylureido)methylpyridin-2-yl]thiazole | 0.92 g | NC(N)=NC=1SC=C(N1)C1=NC(=CC=C1)CNC(=O)NC | C12H15N7OS
